US05952386
A reaction vessel was charged with 4.09 g of 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene, 2.41 of potassium phthalimide and 30 ml of N,N-dimethylformamide. After stirring at room temperature for 24 hours, the reaction mixture was poured into water and extracted twice with 150 ml of chloroform. The chloroform layers were combined, washed with diluted hydrochloric acid and diluted aqueous sodium hydroxide, dried over anhydrous magnesium sulfate, and then concentrated, which afforded 4.67 g of crude 3,5-dichloro-4-(3-phthalimidopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene (98% yield).

reactant | 3,5-dichloro-4-(3-bromopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 4.09 g | ClC=1C=C(C=C(C1OCCCBr)Cl)OCC=C(Cl)Cl | C12H11BrCl4O2
reactant | potassium phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3,5-dichloro-4-(3-phthalimidopropyloxy)-1-(3,3-dichloro-2-propenyloxy)benzene | 4.67 g, 98% yield | ClC=1C=C(C=C(C1OCCCN1C(C=2C(C1=O)=CC=CC2)=O)Cl)OCC=C(Cl)Cl | C20H15Cl4NO4
